US09126950B2
In a 25 mL 3-neck RBF equipped with a calcium chloride guard tube N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide (0.275 g) in THF (8 mL), NMO (0.07 g) and OsO4 (4% in water) solution were charged at room temperature. The reaction mixture was stirred at room temperature for 3 to 4 h. The reaction was monitored on TLC using ethyl acetate (100%) as mobile phase. After completion, the reaction mixture was poured into water and extracted into ethyl acetate. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure at 40° C. Crude material was purified by Combiflash chromatography. Product was eluted with 90% ethyl acetate in hexane to give 0.08 g of N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide. M+H=457.8 1H NMR: DMSO-d6 (400 MHz): 3.28 (s, 3H), 3.60 (m, 4H), 4.04 (m, 3H), 4.82 (t, 1H, J=5.6), 5.78 (d, 1H, J=5.6), 6.79 (d, 2H, J=8.8), 7.26 (d, 1H, J=8), 7.43 (d, 1H, J=8), 7.52 (d, 3H, J=9.2), 7.97 (s, 1H), 8.05 (d, 1H, J=3.6), 8.98 (s, 1H), 9.34 (s, 1H), 9.55 (s, 1H).

reactant | N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)acrylamide | 0.275 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)NC(C=C)=O | C22H22FN5O3
reactant | NMO | 0.07 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | N-(3-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenyl)-2,3-dihydroxypropanamide | 0.08 g | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCOC)NC=1C=C(C=CC1)NC(C(CO)O)=O | C22H24FN5O5
